US08541575B2
Step f: (2E)-1-(3-bromophenyl)-3-(dimethylamino)-2-pyridin-4-ylprop-2-en-1-one
Dimethylformamide dimethylacetal (15 mL) were added to a solution of 7.2 g (0.026 ol) of 1-(3-bromophenyl)-2-pyridin-4-ylethanone in 15 ml of dry tetrahydrofuran. After stirring at 65° C. for 6 hours, the solvent was removed under reduced pressure. 8 g (93% yield) of the title compound as an oil were obtained and employed in the next step without any further purification.

reactant | Dimethylformamide dimethylacetal | 15 mL | COC(N(C)C)OC | C5H13NO2
reactant | 1-(3-bromophenyl)-2-pyridin-4-ylethanone | 7.2 g | BrC=1C=C(C=CC1)C(CC1=CC=NC=C1)=O | C13H10BrNO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (2E)-1-(3-bromophenyl)-3-(dimethylamino)-2-pyridin-4-ylprop-2-en-1-one | 8 g, 93% yield | BrC=1C=C(C=CC1)C(\C(=C\N(C)C)\C1=CC=NC=C1)=O | C16H15BrN2O
